US07109197B2
N-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-propionamide
Propionic acid anhydride (0.26 g, 2.0 mmol) is added to a solution of [4-(2-amino-pyridin-4-yl)-pyrimidin-2-yl]-(3-chloro-phenyl)-amine (0.5 g, 1.68 mmol) and a catalytic amount of DMAP in dimethoxyethane (10 ml) at 95° C. Heating is continued for 1 hour. On cooling the products starts to crystallize. Diethylether is added and the product is filtered of and washed with ether to give the title compound, m.p. 215–216° C.

reactant | Propionic acid anhydride | 2.0 mmol, 0.26 g | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | [4-(2-amino-pyridin-4-yl)-pyrimidin-2-yl]-(3-chloro-phenyl)-amine | 1.68 mmol, 0.5 g | NC1=NC=CC(=C1)C1=NC(=NC=C1)NC1=CC(=CC=C1)Cl | C15H12ClN5
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | N-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-propionamide | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NC(CC)=O | C18H16ClN5O
